US09056873B2
To a 30 mL sealed cap glass vessel containing tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (200 mg, 0.399 mmol) and 2-(4-fluorothiophen-2-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (137 mg, 0.599 mmol) dissolved in DME and water (4:1) was added tetrakis(triphenylphosphine)palladium(0) (105 mg, 0.399 mmol) and potassium phosphate, tribasic (212 mg, 1 mmol). The cap was sealed, and the reaction mixture was heated at 85° C. for 1 hour and then cooled to room temperature. The mixture was diluted with water (10 mL) and extracted with EtOAc (2×25 mL). The organic layers were combined, dried over sodium sulfate, and solvent removed via rotary evaporation to give the intermediate, tert-butyl 6-(((3R,4R)-3-((tert-butoxycarbonyl)amino)tetrahydro-2H-pyran-4-yl)amino)-7-fluoro-4-(4-fluorothiophen-2-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate. The intermediate was dissolved in TFA (5 mL) and the resulting mixture was stirred at room temperature for 1 hour to give crude product, which was purified via preparative HPLC, eluting with a gradient of 15-50% ACN (0.035% TFA) and H2O (0.05% TFA). The pure fractions were combined, evaporated to minimal volume, and lyophilized to give a TFA salt of the title compound (86 mg, 59%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.78 (d, J=9.60 Hz, 1H), 2.03-2.18 (m, 1H), 3.53-3.68 (m, 1H), 3.75 (d, J=11.62 Hz, 1H), 3.85 (br s, 1H), 4.01 (d, J=12.38 Hz, 2H), 4.32 (td, J=8.53, 4.17 Hz, 1H), 4.45 (s, 2H), 7.32 (t, J=1.64 Hz, 1H), 7.40 (d, J=5.31 Hz, 1H), 7.95 (br s, 3H), 8.65 (s, 1H), 8.98 (d, J=1.77 Hz, 1H). ESI-MS m/z [M+H]+ calc'd for C16H16F2N4O2S, 367. found, 367.

reactant | tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.399 mmol, 200 mg | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C22H30ClFN4O6
reactant | 2-(4-fluorothiophen-2-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.599 mmol, 137 mg | FC=1C=C(SC1)B1OC(C(O1)(C)C)(C)C | C10H14BFO2S
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DME | COCCOC | C4H10O2
solvent | water | 10 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.399 mmol, 105 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 6-(((3R,4R)-3-((tert-butoxycarbonyl)amino)tetrahydro-2H-pyran-4-yl)amino)-7-fluoro-4-(4-fluorothiophen-2-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)C=1SC=C(C1)F)C(N(C2)C(=O)OC(C)(C)C)=O)F | C26H32F2N4O6S
